US05130119
(b) 5-Fluoro-2-hydroxy-3-(trifluoromethyl)-benzoic acid-(2,3,4-trihydroxy-butyl)amide
6.86 g (15 mmol) of 5-fluoro-2-hydroxy-3-(trifluoromethyl)-benzoic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamide] is dissolved in 30 ml of methanol, 30 ml of water and 300 mg of cation exchanger Amberlyst 15 are added and refluxed for 2 hours. The ion exchanger is then filtered off, 250 mg of palladium-carbon (10%) is added to the filtrate and hydrogenated for 1 hour at normal pressure. The catalyst is then filtered off, the filtrate is evaporated to dryness in a vacuum and the residue is chromatographed on silica gel 60 (Merck) with dichloromethane/methanol. 3.08 mg (9.41 mmol)=62.7% of the theoretical yield of the compound is obtained as an amorphous solid.

reactant | 5-fluoro-2-hydroxy-3-(trifluoromethyl)-benzoic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamide] | 15 mmol, 6.86 g | OC(CNC(C1=C(C(=CC(=C1)F)C(F)(F)F)O)=O)C1OC(OC1)(C)C | C15H17F4NO5
reactant | water | 30 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | 5-Fluoro-2-hydroxy-3-(trifluoromethyl)-benzoic acid-(2,3,4-trihydroxy-butyl)amide | OC(CNC(C1=C(C(=CC(=C1)F)C(F)(F)F)O)=O)C(CO)O | C12H13F4NO5
